US08378095B2
A mixture of tert-butyl 4-(5-(4-carbamoyl-2-(2,6-difluorophenyl)oxazol-5-yl)pyridin-2-yl)piperazine-1-carboxylate (0.227 g, 0.47 mmol) in DCM (3 mL) and 4N HCl in dioxane (2 mL, 8.0 mmol) was stirred at room temperature for 48 hours. The solvent was removed in vacuo to give 2-(2,6-difluorophenyl)-5-(6-(piperazin-1-yl)pyridin-3-yl)oxazole-4-carboxamide (0.211 g, 0.46 mmol, 98%) as a white solid as the dihydrochloride salt. 1H NMR (DMSO) 3.20 (4H, m), 3.90 (4H, t), 7.11 (1H, d), 7.39 (2H, t), 7.73 (3H, m), 8.44 (1H, dd), 9.0 (1H, d), 9.24 (1H, br. s), 9.30 (1H, br. s). LCMS (2) Rt: 2.38 min; m/z (ES+) 386.

reactant | tert-butyl 4-(5-(4-carbamoyl-2-(2,6-difluorophenyl)oxazol-5-yl)pyridin-2-yl)piperazine-1-carboxylate | 0.47 mmol, 0.227 g | C(N)(=O)C=1N=C(OC1C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1F)F | C24H25F2N5O4
reactant | dioxane | 8.0 mmol, 2 mL | O1CCOCC1 | C4H8O2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 4N | Cl | ClH
product | 2-(2,6-difluorophenyl)-5-(6-(piperazin-1-yl)pyridin-3-yl)oxazole-4-carboxamide | 0.46 mmol, 0.211 g, 98% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C=1C=NC(=CC1)N1CCNCC1 | C19H17F2N5O2
